US05616579
N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-N'-isopropylurea
A solution of 0.113 g of isopropylamine in 2 ml of methylene chloride was added to a solution of 0.31 g of carbonyldiimidazole in 5 ml of methylene chloride, and the resulting mixture was cooled with ice, after which a solution of 0.500 g of 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine in 5 ml of methylene chloride was added. The reaction mixture was stirred at room temperature for 2 hours, after which it was poured into ice-water and extracted with methylene chloride. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 1:20 by volume mixture of methanol and ethyl acetate as the eluent, to give 0.41 g (yield 62%) of the title compound as a white powder, melting at 90°-92° C.

reactant | isopropylamine | 0.113 g | C(C)(C)N | C3H9N
reactant | carbonyldiimidazole | 0.31 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | 0.500 g | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-N'-isopropylurea | 0.41 g, yield 62% | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(=O)NC(C)C | C19H30N4O2
